Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PODIATRY
 
Allergies: 
shrimp
 
Attending: ___.
 
Chief Complaint:
Left foot wound
 
Major Surgical or Invasive Procedure:
Left Foot debridement, ___ tendon repair ___

 
History of Present Illness:
 ___ y/o female presents to ED for evaluation and treatment of
a left foot laceration on the dorsal aspect of the first
metatarsal that she suffered 10 days ago from dropping a glass
vase on her foot. Patient states that she was initially seen at
Urgent Care where it was 'cleaned up and sutured'. However, she
noted persisting redness and pain around the laceration and
therefore was prescribed Keflex and subsequently Bactrim.
However, she notes that the skin around the laceration still
remains red. She was seen by a podiatrist today who removed the
sutures and advised her to present to the ___ ED for an I&D of
the left foot as there may be an abscess present. Furthermore,
patient obtained an x-ray at ___ today which
demonstrated possible retained foreign body to the dorsal left
foot which may represent glass. Patient states her pain is about
a 2 out of 10 at baseline. She denies f/c/n/v. She denies noting
any streaking redness to the left foot.  
 
Past Medical History:
Depression 
Factor V Leiden Deficiency    
 
Social History:
___
Family History:
Family history of Factor V Leiden
 
Physical Exam:
Admission Physical Exam 
=======================
GEN: NAD, A&Ox3
Lower Extremity Focused Exam: ___ pulses palpable b/l. Gross
sensation intact b/l. 4 cm semi elliptical laceration at dorsal
___ metatarsal with mild surrounding erythema and fibrogranular
base underlying. Edema and fluctuance noted proximal to
laceration. No purulence noted. Ecchymoses noted to left hallux.
___ muscle strength b/l. 

Discharge Physical Exam 
=======================
 AFVSS
 GEN: NAD, A&Ox3
 CV: RRR
 PULM: Breathing comfortably on RA
 ABD: soft, non-tender, non-distended
 Lower Extremity: Surgical dressing intact to left foot without
strikethrough bleeding. All digits WWP, brisk capillary refill.
Able to range digits including first MTPJ appropriately.  Short
leg CAM boot applied in PACU.

 
Pertinent Results:
Lab Results 
===========

___ 03:29AM BLOOD WBC-6.3 RBC-3.71* Hgb-11.7 Hct-35.1 
MCV-95 MCH-31.5 MCHC-33.3 RDW-12.1 RDWSD-42.1 Plt ___
___ 07:48PM BLOOD WBC-4.8 RBC-3.84* Hgb-12.3 Hct-35.6 
MCV-93 MCH-32.0 MCHC-34.6 RDW-12.2 RDWSD-41.5 Plt ___
___ 07:48PM BLOOD Neuts-51.9 ___ Monos-9.1 Eos-0.0* 
Baso-1.0 Im ___ AbsNeut-2.49 AbsLymp-1.82 AbsMono-0.44 
AbsEos-0.00* AbsBaso-0.05
___ 03:29AM BLOOD Glucose-108* UreaN-13 Creat-1.1 Na-142 
K-4.5 Cl-107 HCO3-24 AnGap-11
___ 07:48PM BLOOD Glucose-126* UreaN-17 Creat-1.1 Na-139 
K-4.3 Cl-108 HCO3-21* AnGap-10

Imaging
=======
L Foot XR ___

FINDINGS:  
  
Soft tissue defect is seen along the dorsal aspect of the foot 
at the level of the first metatarsal bone.  No radiopaque 
foreign body is identified.  No acute fracture or dislocation.  
Bone mineralization is normal. Joint spaces are preserved 
without significant degenerative changes.  No soft tissue 
calcifications. 
  
IMPRESSION:  
No radiopaque foreign body. 

 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the podiatric surgery team. The patient was found 
to have a non-healing wound to the dorsum of her left foot, 
along with an extensor hallucis longus tendon rupture, and was 
admitted to the podiatric surgery service. The patient was taken 
to the operating room on ___ for a left foot debridement 
with primary repair of the ___ tendon, which the patient 
tolerated well. For full details of the procedure please see the 
separately dictated operative report. The patient was taken from 
the OR to the PACU in stable condition and after satisfactory 
recovery from anesthesia was transferred to the floor. The 
patient was initially given IV fluids, and progressed to a 
regular diet and oral medications by POD#1. The patient was 
given ___ antibiotics and anticoagulation per 
routine. The patient's home medications were continued 
throughout this hospitalization. The patient worked with ___ who 
determined that discharge to home with home ___ was appropriate. 
The ___ hospital course was otherwise unremarkable.
At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
non-weight bearing to the left lower extremity, and will be 
discharged on full-dose aspirin for DVT prophylaxis. Patient 
understands given her known coagulopathy that she is to contact 
her PCP today or tomorrow at the latest regarding potential 
changes to her anticoagulation plan.  Has additionally cancelled 
recent travel, and was advised on warning signs for DVT/PE with 
strict return to ED precautions given.  The patient will follow 
up with Dr. ___ routine. A thorough discussion was had 
with the patient regarding the diagnosis and expected 
post-discharge course including reasons to call the office or 
return to the hospital, and all questions were answered. The 
patient was also given written instructions concerning 
precautionary instructions and the appropriate follow-up care. 
The patient expressed readiness for discharge.

 
Medications on Admission:
FLUoxetine 20 mg PO DAILY
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
PACU ONLY
RX *acetaminophen 500 mg ___ tablet(s) by mouth Q6-8H:PRN Disp 
#*50 Tablet Refills:*0 
2.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*14 Tablet Refills:*0 
3.  Diazepam 2 mg PO Q8H:PRN anxiety 
RX *diazepam 2 mg 1 by mouth Q8H:PRN Disp #*12 Tablet Refills:*0 

4.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*14 Tablet Refills:*0 
5.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: One order is PACU only
RX *oxycodone 5 mg ___ tablet(s) by mouth Q4-6H:PRN Disp #*20 
Tablet Refills:*0 
6.  Aspirin 325 mg PO DAILY Duration: 30 Days 
RX *aspirin 325 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
7.  FLUoxetine 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Extensor Tendon Laceration, Left
Left foot cellulitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
This information is designed as a guideline to assist you in a 
speedy recovery from your surgery. Please follow these 
guidelines unless your physician has specifically instructed you 
otherwise. Please call our office nurse if you have any 
questions. Dial 911 if you have any medical emergency.

ACTIVITY:
There are restrictions on activity. Please remain non weight 
bearing to your left foot until your follow up appointment. 
Please use the CAM boot at all times. You should keep this site 
elevated when ever possible (above the level of the heart!) 
Physical therapy worked with you in the hospital and gave 
instructions on weight bearing: please follow these accordingly. 

No driving until cleared by your Surgeon.

PLEASE CALL US IMMEDIATELY FOR ANY OF THE FOLLOWING PROBLEMS:
Redness in or drainage from your leg wound(s).
New pain, numbness or discoloration of your foot or toes.
Watch for signs and symptoms of infection. These are: a fever 
greater than 101 degrees, chills, increased redness, or pus 
draining from the incision site. If you experience any of these 
or bleeding at the incision site, CALL THE DOCTOR.

Exercise:
Limit strenuous activity for 6 weeks.
No heavy lifting greater than 20 pounds for the next ___ days.
Try to keep leg elevated when able.

BATHING/SHOWERING:
You may shower immediately upon coming home, but you must keep 
your dressing CLEAN, DRY and INTACT. You can use a shower bag 
taped around your ankle/leg or hang your foot/leg outside of the 
bathtub. 

DRESSINGS:
Please keep all dressings completely intact until your follow up 
appointment. If your dressing comes off or gets wet, please 
inform the ___ clinic immediately. ___

MEDICATIONS:
Unless told otherwise you should resume taking all of the 
medications you were taking before surgery. You will be given a 
new prescription for pain medication, which can be taken every 
three (3) to four (4) hours only if necessary.

Remember that narcotic pain meds can be constipating and you 
should increase the fluid and bulk foods in your diet. (Check 
with your physician if you have fluid restrictions.) If you feel 
that you are constipated, do not strain at the toilet. You may 
use over the counter Metamucil or Milk of Magnesia. Appetite 
suppression may occur; this will improve with time. Eat small 
balanced meals throughout the day.

DIET:
There are no special restrictions on your diet postoperatively. 
Poor appetite is not unusual for several weeks and small, 
frequent meals may be preferred.

FOLLOW-UP APPOINTMENT:
Be sure to keep your medical appointments. The key to your 
improving health will be to keep a tight reign on any of the 
chronic medical conditions that you have. Things like high blood 
pressure, diabetes, and high cholesterol are major villains to 
the blood vessels and consequently the foot. Don't let them go 
untreated!

If a follow up appointment was not made prior to your discharge, 
please call the office on the first working day after your 
discharge from the hospital to schedule a follow-up visit. This 
should be scheduled on the calendar for seven to fourteen days 
after discharge. Normal office hours are ___ 
through ___.

PLEASE FEEL FREE TO CALL THE OFFICE WITH ANY OTHER CONCERNS OR 
QUESTIONS THAT MIGHT ARISE.

 
Followup Instructions:
___